US07544703B2
2-(2-Fluoropyridin-4-ylmethylthio)pyridine-3-carboxylic acid (Reference Compound No. 2-1)
A solution of triethylamine (7.0 mL, 50 mmol) in N,N-dimethylformamide (20 mL) was added to a solution of 4-chloromethyl-2-fluoropyridine (Reference compound No. 1-1, 5.5 g, 38 mmol) and 2-mercaptonicotinic acid (6.2 g, 40 mmol) in N,N-dimethylformamide (40 mL) under ice-cooling, then the mixture was stirred for 12 hours at room temperature. Ethyl acetate (50 mL) was added to the reaction mixture, the whole was extracted with 0.1 N aqueous sodium hydroxide solution (100 mL). 1 N hydrochloric acid was added to the aqueous layer to adjust to pH 5, and the precipitated crystal was filtered off. The crystal was dried at 80° C. under reduced pressure to give 5.3 g of the title reference compound as a brown solid. (Yield 53%)

reactant | triethylamine | 50 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | 4-chloromethyl-2-fluoropyridine | ClCC1=CC(=NC=C1)F | C6H5ClFN
reactant | 2-mercaptonicotinic acid | 40 mmol, 6.2 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | 2-(2-Fluoropyridin-4-ylmethylthio)pyridine-3-carboxylic acid | Yield 53% | FC1=NC=CC(=C1)CSC1=NC=CC=C1C(=O)O | C12H9FN2O2S
